US04590195
4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-[2-(3-pyridylcarbonylamino)ethoxymethyl]-1,4-dihydropyridine
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.42 g) was added to an ice-cooled solution of 2-(2-aminoethoxymethyl)-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (0.41 g), nicetinic acid (0.14 g) and 1-hydroxybenzotriazole hydrate (0.17 g) in dichloromethane (40 ml). The mixture was stirred with ice-cooling for 15 minutes, treated with N-methylmorpholine (0.61 g) and stirred at room temperature for 16 hours. The solution was then diluted with dichloromethane, washed successively with water, 2N hydrochloric acid, water, 10% aqueous sodium carbonate solution, and water, dried (Na2SO4) and evaporated. The residue was chromatographed on silica (t.l.c. grade, Merck Kieselgel 60H (Trade Mark) 8 g) eluting with dichloromethane plus 0-5% methanol. Appropriate fractions were combined and evaporated. The residue was triturated with diethyl ether and the resulting solid collected, washed with diethyl ether and dried to give the title compound (0.29 g), m.p. 81°-84° C. Found: C. 61.01; H, 5.48; N, 8.23. C26H28ClN3O6 requires C, 60.76; H, 5.49; N, 8.18%.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.42 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-(2-aminoethoxymethyl)-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 0.41 g | NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C20H25ClN2O5
reactant | 1-hydroxybenzotriazole hydrate | 0.17 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 0.61 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-[2-(3-pyridylcarbonylamino)ethoxymethyl]-1,4-dihydropyridine | 0.29 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCNC(=O)C=1C=NC=CC1)C(=O)OCC | C26H28ClN3O6
